US04563472
1-(2',3',3'-Triiodoallyl)-2-nitroimidazole
To a solution of 57 mg (0.5 mmoles) of 2-nitroimidazole and 300 mg (0.5 mmoles) of 3-p-toluenesulfonyloxy-1,1,2-triiodo-1-propene in 30 ml of dry DMF was added 0.07 ml (0.05 mmoles) of triethylamine and the resulting mixture was heated at 60° C. for one hour. After cooling, the reaction mixture was poured into 10 ml of ice-water, the brown crystalline substance thus separated was recovered by filtration, washed with water and then dried. Yield 246 mg (92%), mp 156°-158° C. (with decomposition).

reactant | 2-nitroimidazole | 0.5 mmoles, 57 mg | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | 3-p-toluenesulfonyloxy-1,1,2-triiodo-1-propene | 0.5 mmoles, 300 mg | C1(=CC=C(C=C1)S(=O)(=O)OCC(=C(I)I)I)C | C10H9I3O3S
reactant | triethylamine | 0.05 mmoles, 0.07 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-(2',3',3'-Triiodoallyl)-2-nitroimidazole | IC(CN1C(=NC=C1)[N+](=O)[O-])=C(I)I | C6H4I3N3O2
